US04547501
(b) Preparation of 1-ethyl-7-fluoro-4-hydroxy-[1,2,4]triazolo-[4,3-a]quinoxaline
A mixture consisting of 11.3 g (0.046 mole) of 1-ethyl-7-fluoro-4-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline, 115 ml. of 1N hydrochloric acid and 345 ml. of glacial acetic acid was refluxed for a period of three hours. Upon completion of this step, the reaction mixture was cooled to room temperature and poured over ice/water. The resulting mixture was then stirred for a period of 30 minutes, filtered and the recovered solid product subsequently washed with water and air-dried to ultimately afford 6.6 g. (62%) of pure 1-ethyl-7-fluoro-4-hydroxy-[1,2,4]triazolo[4,3-a]quinoxaline, m.p.>300° C. Mass Spectrum: m/e, 232 (P); m/e, 231 (P-1).

reactant | 1-ethyl-7-fluoro-4-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline | 0.046 mole, 11.3 g | C(C)C1=NN=C2N1C1=CC=C(C=C1N=C2OC)F | C12H11FN4O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-ethyl-7-fluoro-4-hydroxy-[1,2,4]triazolo-[4,3-a]quinoxaline | C(C)C1=NN=C2N1C1=CC=C(C=C1N=C2O)F | C11H9FN4O
